US06127366
Step A: Preparation of 1-(2,2-Diphenylethyl)-3(S)-piperidine carboxaldehyde
1-(2,2-Diphenylethyl)-3(S)-hydroxymethyl-piperidine (Example 18, Step B)-(2.10 g, 7.10 mmol) and Et3N (2.97 mL, 21.3 mmol) were dissolved in dry DMSO (40 mL) and cooled in an ice bath. Pyridine SO3 complex (3.39 g, 21.3 mmol) was added slowly, and the solution was stirred for 1 hr while allowing to warm to room temperature. The solution was poured into ice water, extracted with CH2CL2 (2×), the combined organics washed with satd NaHCO3 solution, H2O, brine, and dried (MgSO4). Filtration and concentration gave the title compound without further purification. Step B: Preparation of 1-(2,2-Diphenylethyl)-3(S)-[N-(1-(cyanobenzyl)-1H-imidazol-5-ylethyl)aminomethyl]-piperidine

reactant | 1-(2,2-Diphenylethyl)-3(S)-hydroxymethyl-piperidine | C1(=CC=CC=C1)C(CN1C[C@H](CCC1)CO)C1=CC=CC=C1 | C20H25NO
reactant | Et3N | 21.3 mmol, 2.97 mL | CCN(CC)CC | C6H15N
reactant | Pyridine | 21.3 mmol, 3.39 g | N1=CC=CC=C1 | C5H5N
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 1-(2,2-Diphenylethyl)-3(S)-piperidine carboxaldehyde | C1(=CC=CC=C1)C(CN1C[C@H](CCC1)C=O)C1=CC=CC=C1 | C20H23NO
